US06248766B1
Ethyl 3-[(2,3-dihydro-1-oxo-1H-inden-4-yl)oxy]propionate
To a solution of 2,3-dihydro-4-hydroxy-1H-inden-1-one (18.0 g, 121 mmol) in 30% aqueous potassium hydroxide solution (60 mL) was added 3-chloropropionic acid (18 g, 166 mmol) at room temperature and the mixture was refluxed for 1 hour. After cooling, 1N-hydrochloric acid was added and the precipitate (10.0 g) comprised of unreacted 2,3-dihydro-4-hydroxy-1H-inden-1-one was separated by filtration. The filtrate was extracted with 2 portions of ethyl acetate and the pooled extract was washed with water, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure to provide crude crystals (6.20 g) of 3-[(2,3-dihydro-1-oxo-1H-inden-4-yl)oxy]propionic acid. This crystal crop was dissolved in ethanol (40 mL) followed by addition of concentrated sulfuric acid (1.0 mL) at room temperature and the mixture was refluxed for 1 hour. After cooling, the reaction mixture was extracted with 2 portions of ethyl acetate and the pooled organic solution was washed with saturated aqueous sodium hydrogen carbonate solution, dried over MgSO4, and filtered. The filtrate was concentrated under reduced pressure and the residue was crystallized from hexane-diisopropyl ether to provide 6.50 g of the title compound. Yield 22%.

reactant | 2,3-dihydro-4-hydroxy-1H-inden-1-one | 121 mmol, 18.0 g | OC1=C2CCC(C2=CC=C1)=O | C9H8O2
reactant | 3-chloropropionic acid | 166 mmol, 18 g | ClCCC(=O)O | C3H5ClO2
reactant | hydrochloric acid | Cl | ClH
reactant | sulfuric acid | 1.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 40 mL | C(C)O | C2H6O
solvent | potassium hydroxide | 60 mL | [OH-].[K+]
product | Ethyl 3-[(2,3-dihydro-1-oxo-1H-inden-4-yl)oxy]propionate | 6.50 g, Yield 22% | O=C1CCC2=C(C=CC=C12)OCCC(=O)OCC | C14H16O4
